US07754745B2
Step 2: 5-[(3S)-3-(2-Bromophenoxy)pyrrolidin-1-yl]-1,3,4-thiadiazole-2-carbonitrile
To a mixture of 4-(2-bromophenoxy)pyrrolidine hydrochloride (0.5 g, 1.87 mmol) and 5-bromo-1,3,4-thiadiazole-2-carbonitrile (0.36 g, 1.87 mmol) in DMF (10 mL) was added K2CO3 (0.77 g, 5.61 mmol) under a nitrogen atmosphere. The mixture was stirred at 70° C. for 4 h. After dilution with water, the mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, filtered and purified by preparative TLC with petroleum:EtOAc (2:1) to give the title compound. 1H NMR (300 MHz, CDCl3): δ 7.58 (d, 1H), 7.52 (t, 1H), 7.08 (t, 1H), 6.99 (d, 1H), 5.24 (m, 1H), 3.69-3.93 (m, 4H), 2.33-2.56 (m, 2H).

reactant | 4-(2-bromophenoxy)pyrrolidine hydrochloride | 1.87 mmol, 0.5 g | Cl.BrC1=C(OC2CCNC2)C=CC=C1
reactant | 5-bromo-1,3,4-thiadiazole-2-carbonitrile | 1.87 mmol, 0.36 g | BrC1=NN=C(S1)C#N | C3BrN3S
reactant | K2CO3 | 5.61 mmol, 0.77 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-[(3S)-3-(2-Bromophenoxy)pyrrolidin-1-yl]-1,3,4-thiadiazole-2-carbonitrile | BrC1=C(O[C@@H]2CN(CC2)C2=NN=C(S2)C#N)C=CC=C1 | C13H11BrN4OS
